US05187167
Note (6): Diethyl N-[5-(methylamino)picolinoyl]-L-glutamate used as starting material was prepared as follows:-A mixture of methyl 5-(N-tert-butoxycarbonyl-N-methylamino)picolinate (prepared using the method described in the Journal of Medicinal Chemistry, 1980, 23, 1405 except that methyl iodide was used in place of 3-trifluoromethylbenzyl chloride; 1.13 g), aqueous N-sodium hydroxide solution (8.5 ml), water (21 ml) and ethanol (15 ml) was stirred at laboratory temperature for 16 hours. The mixture was concentrated to a volume of 5 ml, acidified to pH 4 with 2N-hydrochloric acid solution and extracted with ethyl acetate (2×40 ml). The combined extracts were dried over magnesium sulphate, filtered and evaporated to give 5-(N-tert-butoxycarbonyl-N-methylamino)picolinic acid (0.8 g).

reactant | Diethyl N-[5-(methylamino)picolinoyl]-L-glutamate | CNC=1C=CC(=NC1)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC | C16H23N3O5
reactant | methyl 5-(N-tert-butoxycarbonyl-N-methylamino)picolinate | C(C)(C)(C)OC(=O)N(C)C=1C=CC(=NC1)C(=O)OC | C13H18N2O4
reactant | methyl iodide | CI | CH3I
reactant | water | 21 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(N-tert-butoxycarbonyl-N-methylamino)picolinic acid | 0.8 g | C(C)(C)(C)OC(=O)N(C)C=1C=CC(=NC1)C(=O)O | C12H16N2O4
